US06297269B1
(1S,2R)-(1-Benzyl-2-dimethylcarbamoyl-2-methoxy-ethyl)-carbamic acid tert-butyl ester
Sodium hydride-oil dispersion (53 mg of 50%) was added to a solution of (1S,2R)-(1-benzyl-2-dimethylcarbamoyl-2-hydroxy-ethyl)-carbamic acid tert-butyl ester (322 mg, 1.0 mmol) in tetrahydrofuran (4 mL) at 0° C. After effervescence ceased (several minutes), methyl iodide (155 mg) was added, and after 15 minutes another 11 mg NaH dispersion and 23 mg methyl iodide were added. After 15 more minutes aqueous ammonium chloride solution and ethyl acetate were added, and the organic layer was separated, washed with water, 2N NaOH, dried and concentrated giving a viscous oil which was used without further purification: Yield 283 mg, 84%.

reactant | Sodium hydride | [H-].[Na+]
reactant | (1S,2R)-(1-benzyl-2-dimethylcarbamoyl-2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 1.0 mmol, 322 mg | C(C)(C)(C)OC(N[C@H]([C@@H](O)C(N(C)C)=O)CC1=CC=CC=C1)=O | C17H26N2O4
reactant | methyl iodide | 155 mg | CI | CH3I
reactant | NaH | 11 mg | [H-].[Na+]
reactant | methyl iodide | 23 mg | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,2R)-(1-Benzyl-2-dimethylcarbamoyl-2-methoxy-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]([C@@H](OC)C(N(C)C)=O)CC1=CC=CC=C1)=O | C18H28N2O4
